US08877944B2
2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-chloro-7-iodo-2,3-dihydro-1H-isoindol-1-one
To a solution of methyl 4-chloro-2-iodo-6-methylbenzoate (175 mg, 0.56 mmol) in methyl pivalate (1 mL), N-bromosuccinimide (120 mg, 0.67 mmol) and benzoylperoxide (14 mg, 0.06 mmol) were added. The reaction mixture was stirred at 85° C. under nitrogen atmosphere for 3 hours. Additional N-bromosuccinimide (60 mg) and benzoylperoxide (7 mg) were added and stirring continued for 1 hour. Crude was filtered on Gooch and washed with toluene. Volatiles were evaporated and the residue was dissolved in acetonitrile (2 mL). Triethylamine (0.28 mL, 2 mmol) and 1-(4,4-difluorocyclohexyl)-piperidin-4-ylamine (110 mg, 0.5 mmol) were added and the reaction mixture was stirred at 90° C. for 4 hours. Crude was diluted with dichloromethane and washed with 15% ammonium hydroxide. Organic phase was dried over sodium sulfate, filtered and evaporated. Column chromatography (dichloromethane/ethanol:97/3) afforded title compound (116 mg, 45% yield).

reactant | methyl 4-chloro-2-iodo-6-methylbenzoate | 0.56 mmol, 175 mg | ClC1=CC(=C(C(=O)OC)C(=C1)C)I | C9H8ClIO2
reactant | N-bromosuccinimide | 0.67 mmol, 120 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 0.06 mmol, 14 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 60 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 7 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Triethylamine | 2 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4,4-difluorocyclohexyl)-piperidin-4-ylamine | 0.5 mmol, 110 mg | FC1(CCC(CC1)N1CCC(CC1)N)F | C11H20F2N2
solvent | methyl pivalate | 1 mL | C(C(C)(C)C)(=O)OC | C6H12O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-chloro-7-iodo-2,3-dihydro-1H-isoindol-1-one | 116 mg, 45% yield | FC1(CCC(CC1)N1CCC(CC1)N1C(C2=C(C=C(C=C2C1)Cl)I)=O)F | C19H22ClF2IN2O
